US07402607B2
Dibenzothiophen-4-ol (i)
To a cooled (−78° C.) solution of dibenzothiophene (20.8 g, 113 mmol) in anhydrous THF (400 ml) was added tert-butyl lithium (1.7 M in pentane; 100 ml, 170 mmol). The reaction mixture was stirred at −78° C. for 1 hour and then allowed to warm to room temperature and stirred like this for 16 hours. The mixture was then cooled to 0° C. and ethylmagnesium bromide (1M in THF; 170 ml, 170 mmol) added to the amber reaction mixture in a slow stream via cannula. The reaction was again allowed to room temperature whereupon it was stirred like this for 30 minutes. A reflux condenser was attached to the reaction vessel before oxygen was bubbled through the solution for 40 minutes. The mixture was then stirred for a further 1 hour before carefully pouring onto crushed ice and acidifying to pH 3 with concentrated HCl. The mixture was then extracted using ethyl acetate (3×80 ml). The organic extracts were then treated with 3M sodium hydroxide solution until pH 10 was attained. The basic, aqueous layer was separated, acidified to pH 3 with 2M HCl which caused an oily solid to precipitate. This was dissolved in diethylether (150 ml), dried using MgSO4, filtered and concentrated in vacuo and then recrystallised from ethanol:water (1:1) (250 ml) to give a buff coloured solid that corresponded to the title compound (21.6 g, 96%) and required no further purification. m/z (LC-MS, ESP), RT=3.64 min, (M+H)=201.1

reactant | dibenzothiophene | 113 mmol, 20.8 g | C1=CC=CC=2SC3=C(C21)C=CC=C3 | C12H8S
reactant | tert-butyl lithium | 170 mmol, 1.7 M, 100 ml | C(C)(C)(C)[Li]
reactant | ethylmagnesium bromide | 170 mmol, 1M, 170 ml | C(C)[Mg]Br
reactant | oxygen | O=O | O2
solvent | THF | 400 ml | C1CCOC1 | C4H8O
product | Dibenzothiophen-4-ol | 21.6 g, 96% | C1=CC=C(C=2SC3=C(C21)C=CC=C3)O | C12H8OS
